US04289763
A solution of 12.0 g of 21-acetoxy-6α-chloro-16α-methyl-1,4,9(11)-pregnatriene-3,20-dione in 120 ml of dioxane is stirred at room temperature after adding 11.1 g of N-bromosuccinimide and 60 ml of 10% perchloric acid and, after 60 minutes, poured into ice water. The thus-precipitated product is filtered off, washed with water, dried in the air, and dissovled in 215 ml of ethanol. After adding 29 g of potassium acetate, the solution is heated for 8 hours to 60° C. under argon. Then the mixture is concentrated to a volume of 60 ml under vacuum, and stirred into ice water. The precipitated product is isolated and chromatographed on silica gel. With 8-9% acetone-hexane, after recrystallization from acetone-diisopropyl ether, 5.2 g of 21-acetoxy-6α-chloro-9,11β-epoxy-16α-methyl-9β-pregna-1,4-diene-3,20-dione is obtained, m.p. 189° C. [α]D25 =+57° (chloroform).

reactant | 21-acetoxy-6α-chloro-16α-methyl-1,4,9(11)-pregnatriene-3,20-dione | 12.0 g | C(C)(=O)OCC([C@H]1[C@@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)C3=CC[C@]12C)=O)Cl)C)=O | C24H29ClO4
reactant | N-bromosuccinimide | 11.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | perchloric acid | 60 ml | Cl(=O)(=O)(=O)O | ClHO4
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 21-acetoxy-6α-chloro-9,11β-epoxy-16α-methyl-9β-pregna-1,4-diene-3,20-dione | 5.2 g | C(C)(=O)OCC([C@H]1[C@@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@]34[C@H](C[C@]12C)O4)=O)Cl)C)=O | C24H29ClO5
